US08278290B2
(i) 2-Benzyloxy-3-methoxy-6-iodo-phenol
To a suspension of 2-benzyloxy-3-methoxy-phenol (3.80 g, 16.5 mmol) and cupric acetate monohydrate (3.28 g, 16.5 mmol) in acetic acid (45 mL) was added iodine (4.62 g, 18.2 mmol) and the reaction was heated to 55° C. and stirred overnight. After this time the reaction was quenched with 10% aqueous sodium thiosulphate (40 mL) and diluted with diethyl ether (150 mL). The resultant emulsion was filtered through celite and the organic layer was washed with water (4×40 mL) and brine (40 mL), dried over magnesium sulphate and the solvent removed under vacuum. The crude residue was purified by silica-gel flash chromatography (sequential elution—5% diethyl ether in hexane, 10%). Concentration of fractions containing the pure product as indicated by thin layer chromatography gave 2.85 g of the desired product. Later impure fractions were combined and re-chromatographed to yield a further 520 mg of material (combined mass=3.37 g, 57% yield). 1H-NMR (CDCl3) δ 7.40-7.33 (m, 5H), 7.34 (d, J=8.9 Hz, 1H), 6.34 (d, J=8.9 Hz, 1H), 6.06 (s, 1H), 5.06 (s, 2H), 3.86 (s, 3H).

reactant | 2-benzyloxy-3-methoxy-phenol | 16.5 mmol, 3.80 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1OC)O | C14H14O3
reactant | iodine | 18.2 mmol, 4.62 g | II | I2
solvent | acetic acid | 45 mL | C(C)(=O)O | C2H4O2
product | 2-Benzyloxy-3-methoxy-6-iodo-phenol | 2.85 g | C(C1=CC=CC=C1)OC1=C(C(=CC=C1OC)I)O | C14H13IO3
